US04749703
Preparation of 11-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino]-6,11-dihydrodibenzo[b,e]thiepin
A mixture of 2.3 g of 11-amino-6,11-dihydrodibenzo[b,e]thiepin, 2.9 g of 4-[4-(4-fluorophenyl)-1-piperazinyl]butyric acid, 2.3 g of dicyclohexylcarbodiimide and 50 ml of methylene chloride is stirred at room temperature for 15 hours. After removal of the precipitated crystals by filtration, the filtrate is concentrated under reduced pressure. The residue is recrystallized from chloroform-n-hexane to give 1.9 g of the title compound, m.p. 194°-194.5° C.;

reactant | 11-amino-6,11-dihydrodibenzo[b,e]thiepin | 2.3 g | NC1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C14H13NS
reactant | 4-[4-(4-fluorophenyl)-1-piperazinyl]butyric acid | 2.9 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)O | C14H19FN2O2
reactant | dicyclohexylcarbodiimide | 2.3 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 11-[4-[4-(4-fluorophenyl)-1-piperazinyl]butyrylamino]-6,11-dihydrodibenzo[b,e]thiepin | 1.9 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCC(=O)NC1C2=C(SCC3=C1C=CC=C3)C=CC=C2 | C28H30FN3OS
